US08802686B2
(2R,3R)-3-benzyloxybutan-2-ol
A solution of 4.0 g (44.4 mmol) of (2R,3R)-butane-2,3-diol in 300 ml of THF was admixed at room temperature with 5.0 g (44.6 mmol) of potassium tert-butylate and the mixture was refluxed for 15 minutes. The mixture was cooled to ca. 50° C. and admixed with 5.3 ml (44.6 mmol) of benzyl bromide. The mixture was refluxed for 3 hours, then stirred overnight at room temperature. The mixture was diluted with ethyl acetate and sodium chloride solution and then washed with 1N hydrogen chloride solution (1×) and sodium chloride solution (2×). The organic phase was dried (Na2SO4), filtered and concentrated by evaporation. The resulting residue was purified chromatographically (hexane/ethyl acetate 1:1). This gave 3.4 g (18.9 mmol; yield: 43%) of the product.

reactant | (2R,3R)-butane-2,3-diol | 44.4 mmol, 4.0 g | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | potassium tert-butylate | 44.6 mmol, 5.0 g | CC(C)(C)[O-].[K+]
reactant | benzyl bromide | 44.6 mmol, 5.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium chloride | [Cl-].[Na+]
product | (2R,3R)-3-benzyloxybutan-2-ol | yield: 43% | C(C1=CC=CC=C1)O[C@@H]([C@@H](C)O)C | C11H16O2
